US07820707B2
2-(2-(3-Tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
2-(2-Bromoacetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (1.66 g, 4.60 mmol), 3-tert-butyl-1H-pyrazole-4-carbaldehyde (1.75 g, 11.49 mmol) and potassium carbonate (2.54 g, 18.38 mmol) were mixed with DMF (20 mL) and heated at 70° C. for 2 h. On cooling, the reaction was partitioned between EtOAc and water. The organics were washed with brine, dried over MgSO4 and concentrated directly onto silica for chromatographic purification (0-100% EtOAc/heptane). Concentration in vacuo yielded a white solid (1.64 g, 3.79 mmol, 83%).

reactant | 2-(2-Bromoacetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 4.60 mmol, 1.66 g | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO | C13H17BrN2O3S
reactant | 3-tert-butyl-1H-pyrazole-4-carbaldehyde | 11.49 mmol, 1.75 g | C(C)(C)(C)C1=NNC=C1C=O | C8H12N2O
reactant | potassium carbonate | 18.38 mmol, 2.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(2-(3-Tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 3.79 mmol, 1.64 g, 83% | C(C)(C)(C)C1=NN(C=C1C=O)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO | C21H28N4O4S
